US07763657B2
Step 5: N-(4-aminomethyl-2-fluoro-6-vinylphenyl)methanesulfonamide
(3-fluoro-4-methanesulfonylamino-5-vinyl-benzyl)-carbamic acid t-butyl ester (1 ml) was put into 25 ml round-bottom flask and dissolved in methylenechloride. To the solution was added trifluoroacetic acid (1 ml) and stirred for one night. After confirming the completion of the reaction with TLC, the reaction solution was concentrated under reduced pressure to yield a brown crude liquid (236.7 mg).

reactant | (3-fluoro-4-methanesulfonylamino-5-vinyl-benzyl)-carbamic acid t-butyl ester | 1 ml | C(C)(C)(C)OC(NCC1=CC(=C(C(=C1)C=C)NS(=O)(=O)C)F)=O | C15H21FN2O4S
reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylenechloride | C(Cl)Cl | CH2Cl2
product | N-(4-aminomethyl-2-fluoro-6-vinylphenyl)methanesulfonamide | 236.7 mg | NCC1=CC(=C(C(=C1)C=C)NS(=O)(=O)C)F | C10H13FN2O2S
